US05587387
A mixture of 2,6-dichloro-α-methylbenzenemethanamine (0.03 mol) and 2-chloro-3-pyridinecarbonitrile (0.03 mol) in N,N-dimethylacetamide (few drops) was stirred for 20 hours at 90° C. The reaction mixture was cooled and poured out into aqueous ammonia. The mixture was extracted twice with CH2Cl2. The organic layer was separated, washed with water, dried (MgSO4), filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /hexane 50/50). The pure fractions were collected and the solvent was evaporated, yielding 3.6 g (±)-2-[[1-(2,6-dichlorophenyl)ethyl]amino]-3-pyridinecarbonitrile (41.4%); mp. 84.4° C. (comp. 9).

reactant | 2,6-dichloro-α-methylbenzenemethanamine | 0.03 mol | ClC1=C(C(=CC=C1)Cl)C(N)C | C8H9Cl2N
reactant | 2-chloro-3-pyridinecarbonitrile | 0.03 mol | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | ammonia | N | H3N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | (±)-2-[[1-(2,6-dichlorophenyl)ethyl]amino]-3-pyridinecarbonitrile | 3.6 g, 41.4% | ClC1=C(C(=CC=C1)Cl)C(C)NC1=NC=CC=C1C#N | C14H11Cl2N3
